US09303045B2
Step 1: Ethyl 4-(3-ethoxy-3-oxopropyl)morpholine-2-carboxylate
A mixture of ethyl morpholine-2-carboxylate (3 g, 18.85 mmol) and ethyl acrylate (5 ml, 18.85 mmol) was heated at 100° C. for 14 h. The reaction was cooled to RT then diluted with Et2O and extracted with aqueous 3M HCl. The combined aqueous layers were basified by solid K2CO3 and extracted with DCM. The combined organic layers were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to afford the title compound as a pale-yellow oil, which was used without further purification.

reactant | ethyl morpholine-2-carboxylate | 18.85 mmol, 3 g | N1CC(OCC1)C(=O)OCC | C7H13NO3
reactant | ethyl acrylate | 18.85 mmol, 5 ml | C(C=C)(=O)OCC | C5H8O2
solvent | Et2O | CCOCC | C4H10O
product | Ethyl 4-(3-ethoxy-3-oxopropyl)morpholine-2-carboxylate | C(C)OC(CCN1CC(OCC1)C(=O)OCC)=O | C12H21NO5
